US06706745B1
Methyl 3-Amino-5-hydroxymethylbenzoate
85 g of 3-nitro-5-methoxycarbonylbenzoic acid was dissolved in 200 ml of THF under a flow of nitrogen, and 43.4 ml of borane dimethylsulfide complex was added with stirring under ice-cooling. After stirring for 18 hours, 200 ml of water was added, and then 96 g of potassium carbonate was added. It was extracted with ethyl acetate, and theorganic layer was washed with salt solution. After drying with magnesium sulfate, the resulting solid was dissolved in 800 ml of ethyl acetate, 750 mg of 10% Pd/C was added, and stirring was continued under the flow of hydrogen. After the reaction was completed, it was subjected to the filtration, and then the filtrate was concentrated to produce 64 g of the title compound.

reactant | 3-nitro-5-methoxycarbonylbenzoic acid | 85 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(=O)OC | C9H7NO6
reactant | water | 200 ml | O | H2O
reactant | potassium carbonate | 96 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Methyl 3-Amino-5-hydroxymethylbenzoate | 64 g | NC=1C=C(C(=O)OC)C=C(C1)CO | C9H11NO3
